US08084448B2
C. 2,6-Dihydroxy-N,N-dimethylbenzamide
To a solution of 2,6-dimethoxy-N,N-dimethylbenzamide (100 mg, 0.48 mmol) in methylene chloride (2.5 mL) is added BBr3 (1.0M in methylene chloride, 1.4 mL) dropwise and the mixture is stirred at RT for 18 h. Water is added and the suspension is extracted with EtOAc. The organic layer is washed with water and brine, and dried over sodium sulfate. The solvent is removed under reduced pressure to give the title compound: 1H NMR (DMSO-d6) δ 9.35 (s, 2H), 6.93-6.89 (t, J=8.34 Hz, 1H), 6.29-6.27 (d, J=8.09 Hz, 2H), 2.89 (s, 3H), 2.86 (s, 3H).

reactant | 2,6-dimethoxy-N,N-dimethylbenzamide | 0.48 mmol, 100 mg | COC1=C(C(=O)N(C)C)C(=CC=C1)OC | C11H15NO3
reactant | BBr3 | 1.0M, 1.4 mL | B(Br)(Br)Br | BBr3
reactant | Water | O | H2O
solvent | methylene chloride | 2.5 mL | C(Cl)Cl | CH2Cl2
product | 2,6-Dihydroxy-N,N-dimethylbenzamide | OC1=C(C(=O)N(C)C)C(=CC=C1)O | C9H11NO3
